### PR TITLE
[Merged by Bors] - feat: remove nonemptiness assumption for the sum of manifolds

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 1]
```diff
@@ -575,6 +575,16 @@ lemma chart_mem_atlas (H : Type*) {M : Type*} [TopologicalSpace H] [TopologicalS
     [ChartedSpace H M] (x : M) : chartAt H x ∈ atlas H M :=
   ChartedSpace.chart_mem_atlas x
 
+lemma nonempty_of_chartedSpace {H : Type*} {M : Type*} [TopologicalSpace H] [TopologicalSpace M]
+    [ChartedSpace H M] (x : M) : Nonempty H :=
+  ⟨chartAt H x x⟩
+
+lemma isEmpty_of_chartedSpace (H : Type*) {M : Type*} [TopologicalSpace H] [TopologicalSpace M]
+    [ChartedSpace H M] [h : IsEmpty H] : IsEmpty M := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:583]:
```suggestion
    [ChartedSpace H M] [IsEmpty H] : IsEmpty M := by

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 2]
```diff
@@ -881,21 +892,49 @@ instance ChartedSpace.sum : ChartedSpace H (M ⊕ M') where
...
 lemma ChartedSpace.sum_chartAt_inr (x' : M') :
-    chartAt H (Sum.inr x') = (chartAt H x').lift_openEmbedding (X' := M ⊕ M') IsOpenEmbedding.inr :=
+    haveI : Nonempty H := nonempty_of_chartedSpace x'
+    chartAt H (Sum.inr x')
+      = (chartAt H x').lift_openEmbedding (X' := M ⊕ M') IsOpenEmbedding.inr := by
+  simp only [chartAt, sum, nonempty_of_chartedSpace x', ↓reduceDIte]
   rfl
 
-lemma ChartedSpace.mem_atlas_sum {e : PartialHomeomorph (M ⊕ M') H} (he : e ∈ atlas H (M ⊕ M')) :
+lemma sum_chartAt_inl_apply {x : M} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:917]: Should one of these lemmas be marked `simp`?

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 3]
```diff
@@ -270,21 +268,25 @@ lemma interiorPoint_inl (x : M) (hx : I.IsInteriorPoint x) :
 lemma boundaryPoint_inl (x : M) (hx : I.IsBoundaryPoint x) :
     I.IsBoundaryPoint (.inl x: M ⊕ M') := by
   rw [I.isBoundaryPoint_iff, extChartAt, ChartedSpace.sum_chartAt_inl]
-  dsimp
+  dsimp only [PartialHomeomorph.extend.eq_1, PartialEquiv.coe_trans, toPartialEquiv_coe,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:271]: Back when landing this, Kim indicated that they preferred an un-squeezed `dsimp`. (I had specifically asked.)
Did you have a particular reason for squeezing, other than "non-terminal dsimps could be brittle"?

This is not something I'll insist on, but I'd like it to be a conscious decision.

The same applies to the other three `dsimp`s below.

**Review by grunweg — COMMENTED** [review]
Thanks, looks very nice! I have only minor comments.
maintainer delegate

**Comment by ocfnash** [comment]
bors d+
